US07396836B2
5-bromo-4-(2-furyl)-2-pyrimidinylamine
To a solution of 4-(2-furyl)-2-pyrimidinylamine (4.10 g, 25.4 mmol) in N,N-dimethylformamide (40 ml) was added N-bromosuccinimide (4.53 g, 25.5 mmol) at 2° C., followed by stirring as it was. After 6 hours, the reaction mixture was diluted with an aqueous saturated sodium bicarbonate solution (240 ml). The mixture was ice-cooled, and then the crystals were collected by filtration and washed with water, to give the title compound (5.10 g, 84%) as a pale brown solid.

reactant | 4-(2-furyl)-2-pyrimidinylamine | 25.4 mmol, 4.10 g | O1C(=CC=C1)C1=NC(=NC=C1)N | C8H7N3O
reactant | N-bromosuccinimide | 25.5 mmol, 4.53 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | 240 ml | C([O-])(O)=O.[Na+]
product | 5-bromo-4-(2-furyl)-2-pyrimidinylamine | 5.10 g, 84% | BrC=1C(=NC(=NC1)N)C=1OC=CC1 | C8H6BrN3O
